US06967196B1
4-chloro-N-(2,5-dichlorophenyl)-N-[4-[[(1,1-dimethylethyl)carbonyl]amino]-1-methylbutyl]benzenesulfonamide was prepared analogous to 4-chloro-N-[2,5-dichlorophenyl]-N-[(R)-1-methyl-4-(acetylamino)butyl]benzenesulfonamide by reacting 4-chloro-N-[2,5-dichlorophenyl]-N-[R]-1-methyl-4-aminobutyl]benzenesulfonamide with pivaloyl chloride. Yield=86%; MS (ESI+), 505 (M+H)+.

reactant | 4-chloro-N-[2,5-dichlorophenyl]-N-[(R)-1-methyl-4-(acetylamino)butyl]benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCCNC(C)=O)C)C1=C(C=CC(=C1)Cl)Cl | C19H21Cl3N2O3S
reactant | benzenesulfonamide | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | 4-chloro-N-(2,5-dichlorophenyl)-N-[4-[[(1,1-dimethylethyl)carbonyl]amino]-1-methylbutyl]benzenesulfonamide | Yield=86% | ClC1=CC=C(C=C1)S(=O)(=O)N(C(CCCNC(=O)C(C)(C)C)C)C1=C(C=CC(=C1)Cl)Cl | C22H27Cl3N2O3S
